Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of obesity, HTN, hyperlipidemia, venous stasis, DM2
complicated by amputation of left lower extremity who is
presenting with concerns for edema and erythema of right lower
extremity and pain.

He notes that in ___, he developed erythema in his right 
leg
and has intermittent courses of antibiotics with varying degrees
of success.  He saw a vascular surgery PA who gave him venous
compression device called "circaide" since he was unable to use
compression stockings.  When he was getting his weekly wound
check/dressing with his PCP, there was noted to be an ulceration
at the area of the top part where the elastic pressed.  He noted
that there is cramping pain in his leg, ___, improved with some
walking, acute, and worse with the ER bed.  The leg is red, 
warm,
and weeping (no pus), but he reports no fever, shaking chills, 
or
night sweats.

Vitals in the ER: 97.6  83  152/66  20  95% RA

There, the patient received: 
Vancomycin 1g IV 
Zosyn 4.5g IV
Tylenol ___ PO 
Gabapentin 200mg PO 

 
Past Medical History:
obesity, HTN, hyperlipidemia, venous stasis, ___ 
s/p partial amputation of LLE secondary to ___, now uses
prosthesis 
Quad surgery in right knee when it became detached after injury
Syncope admission at ___ ___ years ago with unclear cause, but he
reports seizure was ruled out.  
s/p tonsillectomy age ___
 

 
Social History:
___
Family History:
Reviewed and found to be not relevant for venous
stasis. 
 
Physical Exam:
ADMISSION EXAM
VITALS: (see eFlowsheet)
GENERAL: Alert, obese, and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular rate; normal perfusion, no appreciable JVD
RESP: Symmetric breathing pattern with no stridor. Breathing is
non-labored
GI: Abdomen soft, non-distended, no hepatosplenomegaly
appreciated.  
GU: No suprapubic fullness or tenderness to palpation
MSK:  Erythema present on lower extremity to level of the knee,
evidence of linear abrasion across anterior shin with serous
drainage noted. No pus, but blisters noted, no foul smell.  LLE
has amputation 
SKIN: Warm and tender over noted area otherwise no other rashes
or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: normal thought content, logical thought process,
appropriate affect

DISCHARGE EXAM
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMMs
CV: RRR no m/r/g
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present
MSK: No erythema or swelling of joints
SKIN: erythema of RLE from ankle to just distal to knee; several
areas of tissue injury, the most notable of which is a ~8-10 cm
horizontal linear wound across mid-shin; erythema improving. no 
purulent discharge, although some weeping from wounds. no 
significant tenderness to palpation
EXTR: wwp moderate RLE edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
=======================

PERTINENT DATA

WBC ___ 
HGB ___
Plts 200s

BMP wnl

CRP 40

Blood cx NGTD

XR tib/fib R ___
No fracture or suspicious cortical lucency.  Diffuse soft tissue
swelling.  
Calcifications seen in the subcutaneous tissues are likely
sequela of chronic 
venous stasis. 

=======================
 
Brief Hospital Course:
Mr. ___ is a ___ male with obesity, HTN, 
hyperlipidemia, venous stasis, DM2 complicated by amputation of 
left lower extremity, recent cellulitis of RLE, who presented 
with worsening R calf wounds at site of Circaid compression 
device, concern for superinfection/cellulitis. 

# Lower extremity cellulitis
# Venous stasis
# Tissue injury due to circaid compression device with 
superinfection
# Leukocytosis (chronic)
# History of MRSA cellulitis
Patient's wounds are consistent with injury from his compression 
device based on the horizontal linear pattern. Given ?foul smell 
and worsening of baseline stasis dermatitis erythema, felt to be 
concerning for superinfection. Initially treated with broad 
antibiotics in ED (vanc/zosyn) but narrowed upon arrival to 
floor given lack of systemic toxicity and low risk for gram 
negatives or anaerobes. His exam improved with IV vancomycin, 
which was continued for 48 hours, and discharged with an 
additional 5 days of doxycycline. At no point did he develop any 
constitutional symptoms or evidence of systemic toxicity (his 
leukocytosis confirmed to be in chronic range). His CRP was 
elevated but there was no evidence of deeper space infection, 
and so this was felt to be due to his cellulitis. Wound care 
consulted and provided recommendations for daily wound care and 
for Unna boot once antibiotic course complete. Patient has close 
follow-up with PCP and vascular surgery who manages his R leg 
edema. He was counseled to watch for any evidence of worsening 
infection and seek immediate care should this occur. 

# DM2: Continued home insulin regimen. Held metformin and 
trulicity during admission

# HTN: continue lisinopril and chlorthalidone

===============================

TRANSITIONAL/FOLLOW-UP ISSUES:

- 5 days of doxycycline to complete antibiotic course

- discharged with ___ for wound care; plan for Unna boot after 
completion of antibiotics

- close PCP and vascular surgery follow-up

- consider repeat CRP as outpatient; if not resolved would 
consider imaging to rule out deeper space infection

- consider further work-up of chronic leukocytosis if 
appropriate

- referred to ___

- could consider ___ clinic referral for challenging 
right leg edema management

===============================

>30 minutes in patient care and coordination of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
2. Glargine 24 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
3. Gabapentin 200 mg PO TID 
4. Lisinopril 10 mg PO DAILY 
5. Chlorthalidone 25 mg PO DAILY 
6. Trulicity (dulaglutide) 0.75 mg/0.5 mL subcutaneous 1X/WEEK 
7. Simvastatin 10 mg PO QPM 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Doxycycline Hyclate 100 mg PO BID Duration: 5 Days 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice daily 
Disp #*10 Tablet Refills:*0 
3.  Glargine 24 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
4.  Aspirin 81 mg PO DAILY  
5.  Chlorthalidone 25 mg PO DAILY  
6.  Gabapentin 200 mg PO TID  
7.  Lisinopril 10 mg PO DAILY  
8.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID  
9.  Simvastatin 10 mg PO QPM  
10.  Trulicity (dulaglutide) 0.75 mg/0.5 mL subcutaneous 1X/WEEK 
 
11.Outpatient Physical Therapy
Diagnosis: right leg pain and edema. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Lower extremity cellulitis
# Venous stasis
# Tissue injury due to circaid compression device
# Leukocytosis (chronic)
# Diabetes
# Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with wounds of your leg that 
were likely infected. Your wounds improved somewhat with wound 
care and antibiotics. After discharge we have prescribed a 5 day 
course of doxycycline, an antibiotic. (Of note, you need to 
remain upright ___ minutes after taking this medication to 
avoid an injury to your esophagus, called "pill esophagitis".) 
Please return to care with any worsening appearance or smell of 
your wounds. We have requested a visiting nurse to help with 
your dressing changes, which should occur daily. We have also 
set-up an appointment for you in your vascular surgery clinic. 
After the resolution of your infection we have recommended that 
they provide an Unna boot. 

Wound care instructions are as follows:
   
-Moisturize both legs and feet, over intact skin only twice 
daily with Sooth And Cool Ointment. 
             
Topical Therapy:
-Wash lower leg with moisturizing foam cleanser and pat dry. 
-Clean wounds with commercial wound cleaner or normal saline.
-pat dry. 
-Apply Aquacel AG to all open wounds. 
-Secure with Kerlix wraps. 
-Apply Ace wraps to right lower leg in a spiral pattern from the
toes to just below the knee. 3 inch wrap at foot, changing to 4
inch wrap to upper leg. (will need two 4 inch wraps)
-Elevate leg as much as possible.
-Remove ace wrap at night and elevate on two pillows
-change daily
-Ace wrap should be applied before getting out of bed for the 
day
or after legs have been elevated for ___ minutes. 
 
You should see vascular surgeon for ___ Boot application
after discharge once cellulitis has resolved.   

 
Followup Instructions:
___